US05252601
N-[[1,2,3,4-Tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine
Dissolve N-[[1,2,3,4-tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester (882 mg, 2.00 mmol) in dimethylsulfide (2 mL) and add trifluoromethane sulfonic acid (0.2 mL). Stir at ambient temperature under an atmosphere of argon for 1 hour. Dilute to a volume of 50 mL with methylene chloride and extract with brine. Dry (MgSO4) and evaporate the solvent in vacuo to give the crude product. Purify the residue by column chromatography (acetic acid:ethyl acetate:hexane) to give the title compound.

reactant | N-[[1,2,3,4-tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester | 2.00 mmol, 882 mg | C(C)(=O)SCC1(CC2=CC=CC=C2CC1)C(=O)NCC(O)C(=O)OCC1=CC=CC=C1 | C24H27NO5S
reactant | trifluoromethane sulfonic acid | 0.2 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dimethylsulfide | 2 mL | CSC | C2H6S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[[1,2,3,4-Tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine | C(C)(=O)SCC1(CC2=CC=CC=C2CC1)C(=O)NCC(O)C(=O)O | C17H21NO5S
